US07119205B2
3-(4-bromophenyl)-2-chloro-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
N-chlorosuccinamide (1.56 mmol, 0.2 g) was added to a solution of 3-(4-bromophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile (1 mmol, 0.350 g) in acetic acid (5 mL) at room temperature. The reaction was heated at 90° C. for 5 h, cooled and quenched with water (30 mL). The aqueous mixture was extracted with ethyl acetate (3×30 mL), dried (Na2SO4), concentrated and purified on RP-HPLC to afford the title compound. MS (ESI) m/e 381 (M−H)+; 1H NMR (500 MHz, DMSO-d6): δ ppm 11.93 (br s, 1H), 7.59 (d, J=10, 2H), 7.28 (d, J=10, 2H).

reactant | N-chlorosuccinamide | 1.56 mmol, 0.2 g | ClNC(CCC(=O)N)=O | C4H7ClN2O2
reactant | 3-(4-bromophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | 1 mmol, 0.350 g | BrC1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C14H7BrN2O2S
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-(4-bromophenyl)-2-chloro-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | BrC1=CC=C(C=C1)C1=C(SC=2NC(C(=C(C21)O)C#N)=O)Cl | C14H6BrClN2O2S
